US04333950
In a manner similar to Example 12A, the reaction of 0.41 g (0.0018 mole) of (±)-trans-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride with 0.37 g (0.0018 mole) of (+)-4-phenyl-2-indanol (EE 50%), 0.16 g (0.002 mole) of pyridine and toluene gave (+)-4-phenyl-2-indanyl (±)-trans-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate, EE 50% (alcohol moiety). The nmr and ir spectra were consistent with the proposed structure.

reactant | (±)-trans-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.0018 mole, 0.41 g | ClC(=C[C@@H]1C([C@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
reactant | (+)-4-phenyl-2-indanol | 0.0018 mole, 0.37 g | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)O | C15H14O
reactant | pyridine | 0.002 mole, 0.16 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (+)-4-phenyl-2-indanyl (±)-trans-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=C[C@@H]1C([C@H]1C(=O)OC1CC2=CC=CC(=C2C1)C1=CC=CC=C1)(C)C)Cl | C23H22Cl2O2
